datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14]([C:15]([C:16]([H:26])([H:27])[H:28])[c:17]1[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]1[H:33])([H:23])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])([H:7])[C:15]([C:14]([H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[c:17]1[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]1[H:33])[H:6],35.6895
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10],23.4304
[C:0]([S:1][S:2][S:3][H:7])([H:4])([H:5])[H:6].[C:8]([H:9])([H:10])[H:11]>>[C:0]([S:1][S:2][C:8]([H:9])([H:10])[H:11])([H:4])([H:5])[H:6].[S:3][H:7],15.4808
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4](=[C:5]([H:14])[H:15])[H:13])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([S:18][H:28])[c:19]1[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]1[H:33])([H:25])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4](=[C:5]([H:14])[H:15])[H:13])[H:8])([H:6])[H:7].[H:9][C:17]([C:16]([H:25])([H:26])[H:27])([S:18][H:28])[c:19]1[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]1[H:33],-15.0624
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([H:14])([H:15])[H:16])=[C:6]([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])([H:12])[H:13])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])([H:13])[C:4]([C:5]([H:14])([H:15])[H:16])[C:6]1([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])[H:10],163.887
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([O:4][H:12])[H:8])[H:7])([H:5])[H:6].[C:13]([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:5])[H:6].[O:4]([H:12])[C:13]([H:14])([H:15])[H:16],159.665
[C:0]([C:1]([H:5])([H:6])[H:7])([H:2])([H:3])[H:4].[I:8]>>[C:0]([C:1]([H:5])([H:6])[H:7])([H:3])[H:4].[H:2][I:8],111.0
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[O:26][H:27]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:23])([H:24])[H:25])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10].[H:8][O:26][H:27],4.075216
[C:0]([C:1]([C:2]([C:3]([C:4]([O:5][O:6])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3](=[C:4]([H:16])[H:17])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:5][O:6][H:14],119.244
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([C:6](=[C:7]([C:8]([H:19])([H:20])[H:21])[H:18])[H:17])([H:15])[H:16])([H:13])[H:14])[H:9]>>[C:0](#[C:1][C:2]1([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]1([C:7]([C:8]([H:19])([H:20])[H:21])[H:18])[H:17])[H:9],98.7006
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](#[C:13][C:14]([C:15]([H:18])([H:19])[H:20])[S:16][H:21])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:14]([C:13]#[C:12][H:17])([C:15]([H:18])([H:19])[H:20])[S:16][H:21],68.3247
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0]([C:1]1([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]1([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])([H:9])[H:10],35.7314
[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7].[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0]([C:1]([O:2][C:3](=[O:4])[H:10])([H:8])[H:9])([H:6])[H:7].[H:5][C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14],43.5136
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])[H:7])([H:5])[H:6].[C:13](=[C:14]([H:16])[H:17])[H:15]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])[H:9])[H:7])([H:5])[H:6].[H:8][C:13](=[C:14]([H:16])[H:17])[H:15],-11.7152
[C:0](=[C:1]=[C:2]1[C:3]=[C:4]([H:9])[C:5]([H:10])=[C:6]1[H:11])([H:7])[H:8]>>[C:0](=[C:1]=[C:2]=[C:3]=[C:4]([C:5](=[C:6][H:11])[H:10])[H:9])([H:7])[H:8],224.30424
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14](=[C:15]([C:16]([C:17]([H:22])([H:23])[H:24])[H:21])[H:20])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[C:16]([C:15](=[C:14]([H:18])[H:19])[H:20])([C:17]([H:22])([H:23])[H:24])[H:21])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7],30.334
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([C:5](=[O:6])[H:18])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:0](=[C:1]([C:2]([H:11])([H:12])[H:13])[H:10])([H:8])[H:9].[C:3]([C:4]([H:15])([H:16])[H:17])(=[C:5]([O:6][H:7])[H:18])[H:14],214.789
